US06180642B2
Step C: (S)-3-Benzyloxy-2-methylpropanal
An oven dried three-necked 2 L round bottom flask was equipped with a mechanical stirrer, a thermometer, an N2 inlet, and a septum. The flask was charged with 24.050 g (0.189 mol) of oxalyl chloride and 425 mL CH2Cl2. The reaction mixture was stirred under an N2 atmosphere and cooled to −78° C. with an external dry ice-acetone bath. A solution of methyl sulfoxide (29.607 g; 0.379 mol) in 85 mL CH2Cl2 was then added over 5 min to the reaction mixture via cannula. After the adition, the reaction was stirred an additional 5 min and then a solution of 31.048 g (0.172 mol) of (S)-3-benzyloxy-2-methylpropan-1-ol in 170 mL CH2Cl2 was added via cannula. When the second addition was completed the reaction mixture was stirred for 15 min at −78° C. then 111.32 g (0.861 mol) of N,N-diisopropylethylamine was added via syringe. The reaction mixture was stirred an addition 15 min at −78° C., the cooling bath was removed and the reaction was allowed to warm. When the internal temperature had reached −15° C., 350 mL of a 10% aqueous NaHSO4 solution was slowly added and the mixture was transferred to a separatory funnel. The organic layer was separated, washed with aqueous NaHSO4 (2×250 mL), saturated NaCl, dried (MgSO4), filtered and evaporated. The residue was used immediately in the next step without further purification.

reactant | oxalyl chloride | 0.189 mol, 24.050 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl sulfoxide | 0.379 mol, 29.607 g | CS(=O)C | C2H6OS
reactant | (S)-3-benzyloxy-2-methylpropan-1-ol | 0.172 mol, 31.048 g | C(C1=CC=CC=C1)OC[C@H](CO)C | C11H16O2
reactant | N,N-diisopropylethylamine | 0.861 mol, 111.32 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 85 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 170 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 425 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Benzyloxy-2-methylpropanal | C(C1=CC=CC=C1)OC[C@@H](C=O)C | C11H14O2
